US04853404
A solution of 2.71 g of 2,3-dichloro-4-(1-methyl-5-pyrazolylcarbonyl)phenol in tetrahydrofuran-dimethylsulfoxide is added dropwise to an ylide solution prepared from a solution of 8.57 g of methyltriphenylphophonium bromide in tetrahydrofurandimethylsulfoxide and 13.8 ml of 1.6M n-butyl lithium in hexane. The mixture is stirred at room temperature for 18 hours, and further stirred at 65° C. for 2 hours. The reaction mixture is poured into an aqueous saturated ammonium chloride solution and then extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography to give 2.41 g of 2,3-dichloro-4-[1-(1-methyl-5-pyrazolyl)vinyl]phenol.

reactant | 2,3-dichloro-4-(1-methyl-5-pyrazolylcarbonyl)phenol | 2.71 g | ClC1=C(C=CC(=C1Cl)C(=O)C1=CC=NN1C)O | C11H8Cl2N2O2
reactant | n-butyl lithium | 1.6M, 13.8 ml | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran dimethylsulfoxide | O1CCCC1.CS(=O)C
catalyst | methyltriphenylphophonium bromide | 8.57 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | 2,3-dichloro-4-[1-(1-methyl-5-pyrazolyl)vinyl]phenol | 2.41 g | ClC1=C(C=CC(=C1Cl)C(=C)C1=CC=NN1C)O | C12H10Cl2N2O
